US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 3,4,5-trichloroaniline to yield 2-[(3,4,5-trichlorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 3,4,5-trichloroaniline | ClC=1C=C(N)C=C(C1Cl)Cl | C6H4Cl3N
product | 2-[(3,4,5-trichlorophenyl)amino]phenylacetic acid | ClC=1C=C(C=C(C1Cl)Cl)NC1=C(C=CC=C1)CC(=O)O | C14H10Cl3NO2
